Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[C:1].[C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10],5.30810906799
[C:11]([H:12])([H:13])[H:14].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[O:9][H:10])[C:11]([H:12])([H:13])[H:14],-4.37715811474
[C:2]([H:3])#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[O:1]>>[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-2.74196929643
[O:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:5].[O:1][O:2]/[C:3]([H:4])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],1.92268378163
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5]([H:6])([H:7])[C@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3][H:4],1.5269173875100002
[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-1.86464654
[C:8][O:9][H:10].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:8][O:9][H:10],-7.02387573796
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10],1.38149085468
[C:1]#[C:2][C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1][C:2]#[C:3][C:6]([H:7])=[C:9]([H:10])[H:11].[C:4]([H:5])([H:8])[H:12],3.23231875619
[H:1][C:2]=[C:3]([O:4][C:5][O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]=[C:3]([O:4][C:5]=[O:6])[C:8]([H:9])([H:10])[H:11].[H:7],2.55086107067
[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6]([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]([H:7])=[O:8])[C:10]([H:11])([H:12])[H:13].[H:9],1.4434376398299995
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:13]([H:14])([H:15])[H:16],4.40587896129
[C:1]#[C:2][C:3]([H:4])=[O:5].[O:6][H:7]>>[C:1]#[C:2][C:3]([H:4])[O:5][O:6][H:7],-2.24115862504
[H:1][O:2][C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([C:4]=[C:6]([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:5],4.91152891104
[H:12].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],-1.99694984868
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5]([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[O:4],1.41761693682
[C:1].[C:2]#[C:3][C:4](=[O:5])[C:6]([H:7])([H:8])[H:9]>>[C:1][C:2]#[C:3][C:4](=[O:5])[C:6]([H:7])([H:8])[H:9],-6.46953551819
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]=[C:8]([H:9])[H:10].[H:7]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10],-4.90076260252
[C:1].[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9](=[O:10])[H:11]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9](=[O:10])[H:11],-7.36834078253
[H:10].[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[C:8][H:9])=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13],-5.140096957780001
[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]=[O:7]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[H:11],-0.9180263966
[H:1][C:2]#[C:3].[O:4]=[C:5]([H:6])[C:7]([H:8])[O:9][H:10]>>[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10],-3.59141163495
[C:5]#[C:6][C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][C:2]([H:3])=[O:4]>>[H:1][C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])=[C:9]([H:10])[H:11],-1.79426708995
[C:1]=[C:2]([C:3]([H:4])=[C:5][H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:1]([H:4])#[C:5][H:6].[C:2](#[C:3])[C:7]([H:8])=[C:9]([H:10])[H:11],0.53161385221
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8][C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-3.70366363143
[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12]>>[C:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7],4.75688151589
[H:1][O:2][C:3]#[C:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][C:4]#[C:5][H:6],3.3034241960000004
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][H:8],8.03390917522
[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6]/[O:7][C:8]([H:9])([H:10])[H:11]>>[H:11].[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6]/[O:7][C:8]([H:9])[H:10],4.1395156165800016
[H:1][O:2][C:3]#[C:4][O:5][C:6][C:7]([H:8])([H:9])[H:10]>>[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3]#[C:4][O:5][C:6],3.53665504434
